US08710086B2
Preparation of intermediate methyl 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate
The title compound was prepared according to General Method 5. A solution of 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid (1.0 g, 3.3 mmol) and K2CO3 (1.38 g, 10 mmol) in DMF (10 mL) was stirred at RT for 10 minutes. Methyl iodide (710 mg, 5 mmol) was added and heated at 55° C. for 4 h. The solvent was removed and reaction mixture was poured in water, extracted with ethyl acetate (100 mL, 2 times), dried over Na2SO4, concentrated and purified with column chromatography to obtain 300 mg of methyl 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate

reactant | 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid | 3.3 mmol, 1.0 g | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)NC(C(=O)O)(C)C)F | C15H21FN2O3
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl iodide | 5 mmol, 710 mg | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoate | 300 mg | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)NC(C(=O)OC)(C)C)F | C16H23FN2O3
